US06395733B1
2-Iodo-4-(6-methyl-pyrido[3,4-d]pyrimidin-4-ylamino)-phenol hydrochloride
6-Methyl-pyrido[3,4-d]pyrimid-4-one (161 mg, 1.00 mmol) was added to polymer-supported triphenylphosphine (1.66 g of about 3 mmol P/g polymer; 5.0 mmol) along with CCl4 (1.54 g, 10.0 mmol) in 1,2-dichloroethane (6 mL). The reaction mixture was heated to 60° C. for 2 hours and then the resin was filtered and washed with 1,2-dichloroethane. The filtrate was collected in a flask containing 4-hydroxy-3-iodo-aniline (0.235 g, 1.00 mmol) and concentrated to 5 mL by evaporation. After 12 hours reflux under nitrogen followed by cooling to 20° C., the title product was collected by filtration (347 mg; 83%; M.P. 261-265° C.; LC-MS: 379 (MH+); anal. RP-HPLC: 3.20 min.).

reactant | 6-Methyl-pyrido[3,4-d]pyrimid-4-one | 1.00 mmol, 161 mg | CC1=CC2=C(N=CNC2=O)C=N1 | C8H7N3O
reactant | triphenylphosphine | about 3 mmol, 1.66 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | CCl4 | 10.0 mmol, 1.54 g | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 4-hydroxy-3-iodo-aniline | 1.00 mmol, 0.235 g | OC1=C(C=C(N)C=C1)I | C6H6INO
solvent | 1,2-dichloroethane | 6 mL | ClCCCl | C2H4Cl2
product | 2-Iodo-4-(6-methyl-pyrido[3,4-d]pyrimidin-4-ylamino)-phenol hydrochloride | Cl.IC1=C(C=CC(=C1)NC=1C2=C(N=CN1)C=NC(=C2)C)O | InChI=1S/C14H11IN4O.ClH/c1-8-4-10-12(6-16-8)17-7-18-14(10)19-9-2-3-13(20)11(15)5-9;/h2-7,20H,1H3,(H,17,18,19);1H
